US04814265
(a) Synthesis of 2-methoxycycloheptimidazole
First, 3 g of 2-methylthiocycloheptimidazole as synthesized according to Synthetic example 1 (c) with reference to the method disclosed in Bulletin of the Chemical Society of Japan, volume 33, No. 1, pages 56 to 58 (1960) was added to 50 ml of methanol, and 1 g of sodium methoxide was further added thereto. After reflux with heating for 10 hours, the solvent was distilled away, and 50 ml of benzene was added to the residue. The insoluble matters were filtered out, and the filtrate was concentrated. The resulting crystals were purified by silica gel column chromatography using ethyl acetate as a developing solvent.

reactant | 2-methylthiocycloheptimidazole | 3 g | CSC=1N=C2C(N1)=CC=CC=C2 | C9H8N2S
reactant | sodium methoxide | 1 g | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-methoxycycloheptimidazole | COC=1N=C2C(N1)=CC=CC=C2 | C9H8N2O
